US06479536B1
N-[3-(4-Isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]-4-methoxyphenylacetamide
By using 3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine and 4-methoxyphenylacetyl chloride, the title compound was synthesized according to Example 1b. Yield: 42%. Melting point: 202-204° C. (Methanol)

reactant | 3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)N)C)C | C21H25NO
reactant | 4-methoxyphenylacetyl chloride | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
solvent | Methanol | CO | CH4O
product | N-[3-(4-Isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]-4-methoxyphenylacetamide | Yield: 42% | C(C)(C)C1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)NC(CC2=CC=C(C=C2)OC)=O)C)C | C30H33NO3
